US03950376
3-Benzylthio-4-phenoxy-5-sulfamylbenzoic acid
3-Benzylthio-5-chlorosulfonyl-4-phenoxybenzoic acid (0.6 g) is added to concentrated aqueous ammonia (10 ml). After 1 hour, the reaction mixture is heated on a steam-bath for 15 minutes, and crude 3-benzylthio-4-phenoxy-5-sulfamylbenzoic acid precipitated by addition of a 1 N hydrochloric acid until pH 2.5. The crude product is dissolved in aqueous sodium hydrogen carbonate by heating. After cooling, the precipitated sodium salt of 3-benzylthio-4-phenoxy-5-sulfamylbenzoic acid is collected by filtration. The salt is redissolved in hot water (20 ml) and 3-benzylthio-4-phenoxy-5-sulfamylbenzoic acid precipitated by addition of 1 N hydrochloric acid. After cooling and collecting by filtration, and drying in vacuo at 80° C, the compound is obtained with a melting point of 235°-236° C.

reactant | 3-Benzylthio-5-chlorosulfonyl-4-phenoxybenzoic acid | 0.6 g | C(C1=CC=CC=C1)SC=1C=C(C(=O)O)C=C(C1OC1=CC=CC=C1)S(=O)(=O)Cl | C20H15ClO5S2
reactant | ammonia | 10 ml | N | H3N
product | 3-Benzylthio-4-phenoxy-5-sulfamylbenzoic acid | C(C1=CC=CC=C1)SC=1C=C(C(=O)O)C=C(C1OC1=CC=CC=C1)S(N)(=O)=O | C20H17NO5S2
